US06174881B1
A solution of 16.3 g of 2-amino-7-chloro-5-(2-pyridyl)-3H-1,4-benzodiazepine and 8.4 g of 1,3-dichloroacetone in 600 ml of dioxan was treated with 5.6 g of anhydrous sodium hydrogen carbonate and stirred at 100°0 C. for 16 h. A further 0.84 g of dichloroacetone and 0.56 g of anhydrous sodium hydrogen carbonate were added and the mixture was stirred at 100° C. for a further 8 h. The mixture was evaporated in a vacuum and the residue was partitioned between chloroform and water. The aqueous phase was extracted twice with dichloromethane. The combined organic phases were evaporated in a vacuum. The residue was dissolved in dichloromethane and chromatographed over 800 g of silica gel. With dichloromethane/ethanol 197:3 there were eluted small amounts of impurities, with dichloromethane/ethanol 196:4 there were eluted 10.2 g of the desired product. After recrystallization from ethyl acetate there were obtained 9.0 g of 2-chloromethyl-8-chloro-6-(2-pyridyl)-4H-imidazo[1,2-a][1,4]benzodiazepine of m.p. 161° C.

reactant | 2-amino-7-chloro-5-(2-pyridyl)-3H-1,4-benzodiazepine | 16.3 g | NC1=NC2=C(C(=NC1)C1=NC=CC=C1)C=C(C=C2)Cl | C14H11ClN4
reactant | 1,3-dichloroacetone | 8.4 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium hydrogen carbonate | 5.6 g | C(O)([O-])=O.[Na+]
reactant | dichloroacetone | 0.84 g | ClC(C(C)=O)Cl | C3H4Cl2O
reactant | sodium hydrogen carbonate | 0.56 g | C(O)([O-])=O.[Na+]
solvent | dioxan | 600 ml | O1CCOCC1 | C4H8O2
product | 2-chloromethyl-8-chloro-6-(2-pyridyl)-4H-imidazo[1,2-a][1,4]benzodiazepine | 9.0 g | ClCC=1N=C2N(C3=C(C(=NC2)C2=NC=CC=C2)C=C(C=C3)Cl)C1 | C17H12Cl2N4
